US08372975B2
In a reaction vessel under a nitrogen atmosphere, 27.0 g of 3-fluoro-4′-propylbiphenyl (T-1) and 270 ml of THF were put, and cooled to −74° C. Thereto, 141 ml of cyclohexane and n-hexane solution of 1.07 M sec-butyllithium was added dropwise in a temperature range of −74° C. to −65° C., and stirred for another 120 minutes. Subsequently, 19.5 ml of N,N-dimethylformamide (DMF) was added dropwise in a temperature range of −74° C. to −67° C., and stirred for another 60 minutes. The reaction mixture obtained was returned to 25° C., and then poured into 300 ml of 0.1 N hydrochloric acid solution and mixed. Then 300 ml of toluene was added, and allowed to be separated into an organic layer and an aqueous layer, and extraction was carried out. Then the organic layer obtained was washed successively with water, a saturated aqueous solution of sodium hydrogencarbonate and water, and dried over anhydrous magnesium sulfate. The solution obtained was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel; heptane/toluene (=1/1 by volume)) to obtain 29.6 g of 3-fluoro-4′-propylbiphenyl-4-carbaldehyde (T-2). The yield based on compound (T-1) was 97%.

reactant | 3-fluoro-4′-propylbiphenyl | 27.0 g | FC=1C=C(C=CC1)C1=CC=C(C=C1)CCC | C15H15F
reactant | THF | 270 ml | C1CCOC1 | C4H8O
reactant | sec-butyllithium | 1.07 M | C(C)(CC)[Li]
reactant | hydrochloric acid | 0.1 N, 300 ml | Cl | ClH
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 19.5 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
solvent | cyclohexane | 141 ml | C1CCCCC1 | C6H12
product | 3-fluoro-4′-propylbiphenyl-4-carbaldehyde | 29.6 g | FC=1C=C(C=CC1C=O)C1=CC=C(C=C1)CCC | C16H15FO
